US08252931B2
The title I compound, 3-(benzyl-{4-[(R)-2-cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-amino)-propionic acid tert-butyl ester (0.064 g, 0.0942 mmol) is dissolved in methanol (5 mL), to which a solution of sodium hydroxide (0.004 g, 0.0942 mmol) in water (2 mL) is added. The reaction mixture is stirred at RT overnight. The reaction mixture is then concentrated and the residue is partitioned between 1 M HCl/ethyl acetate. The organic layer is dried over magnesium sulfate, filtered and concentrated to afford 3-(benzyl-{4-[(R)-2-cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-amino)-propionic acid as a white foam: 1H NMR (400 MHz-CDCl3) δ 1.17 (m, 2H) 1.50 (m, 2H) 1.66 (m, 4H) 1.78 (m, 1H) 2.28 (m, 1H) 2.43 (m, 2H) 3.23 (m, 1H) 3.50 (m, 1H) 3.85 (m, 2H) 4.00 (s, 3H) 4.37 (m, 1H) 4.77 (m, 1H) 6.79 (m, 1H) 7.36 (m, 5H) 7.52 (m, 2H) 7.67 (m, 1H) 7.95 (m, 2H); LC/MS 623.3 (M+1), 621.4 (M−1). EC50 in primary enzyme assay 0.27 μM

reactant | 3-(benzyl-{4-[(R)-2-cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-amino)-propionic acid tert-butyl ester | 0.0942 mmol, 0.064 g | C(C)(C)(C)OC(CCN(S(=O)(=O)C1=CC=C(C=C1)[C@@H](CC1CCCC1)C(NC=1SC2=NC(=CC=C2N1)OC)=O)CC1=CC=CC=C1)=O | C35H42N4O6S2
reactant | sodium hydroxide | 0.0942 mmol, 0.004 g | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-(benzyl-{4-[(R)-2-cyclopentyl-1-(5-methoxy-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-amino)-propionic acid | C(C1=CC=CC=C1)N(CCC(=O)O)S(=O)(=O)C1=CC=C(C=C1)[C@@H](CC1CCCC1)C(NC=1SC2=NC(=CC=C2N1)OC)=O | C31H34N4O6S2
